US07199239B2
Intermediate 10: Ethyl 2-methyl-2-[2-methyl-4-({[4-(trifluoromethyl)benzyl]amino}methyl)phenoxy]propanoate
To a solution of ethyl 2-(4-formyl-2-methylphenoxy)-2-methylpropanoate (0.563 g, 2.25 mmol) in CH2Cl2 (10 mL) under nitrogen at room temperature, was added 4-trifluoromethylbenzyl amine (0.34 mL, 2.37 mmol). The resulting solution was stirred for 30 minutes prior to addition of sodium triacetoxyborohydride (0.668 g, 3.15 mmol). After 18 h stirring the reaction mixture was quenched by cautious addition of sat. sodium bicarbonate aq. (30 mL) and extracted CH2Cl2 (2×50 mL). The organic solution was dried (MgSO4) and the solvent removed in vacuo. Purification by SPE (Silica, 20 g) eluting 9:1 cyclohexane:EtOAc afforded the title compound as a colourless oil (0.485 g).

reactant | ethyl 2-(4-formyl-2-methylphenoxy)-2-methylpropanoate | 2.25 mmol, 0.563 g | C(=O)C1=CC(=C(OC(C(=O)OCC)(C)C)C=C1)C | C14H18O4
reactant | 4-trifluoromethylbenzyl amine | 2.37 mmol, 0.34 mL | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | sodium triacetoxyborohydride | 3.15 mmol, 0.668 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-methyl-2-[2-methyl-4-({[4-(trifluoromethyl)benzyl]amino}methyl)phenoxy]propanoate | 0.485 g | CC(C(=O)OCC)(C)OC1=C(C=C(C=C1)CNCC1=CC=C(C=C1)C(F)(F)F)C | C22H26F3NO3
